US07381746B2
32 mg of 3-chloroperbenzoic acid was added to 73 mg of (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 1.46 mL of dichloromethane and the mixture was stirred for 1 hour in a dry ice-acetone bath. The mixture was stirred for 3.5 hours in an ice bath, and further stirred for 11 hours at room temperature. 15 mg of 3-chloroperbenzoic acid was further added thereto, and the mixture was stirred for 1 hour in a dry ice-acetone bath, and then stirred for 4 hours in an ice bath. The reaction solution was washed with a saturated aqueous solution of sodium hydrogen carbonate and with a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=4:1 to 2:1), thereby yielding 63 mg of (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfinyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester and 12 mg of (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfonyl-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester.

reactant | 3-chloroperbenzoic acid | 32 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfanyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 73 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1SCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N=[N+]=[N-] | C19H20Cl2FN3O4S
reactant | 3-chloroperbenzoic acid | 15 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 1.46 mL | ClCCl | CH2Cl2
product | (1R,2S,3R,5R,6R)-2-azido-3-(3,4-dichlorobenzylsulfinyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 63 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1S(=O)CC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N=[N+]=[N-] | C19H20Cl2FN3O5S
